US06087357
A solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(5-morpholino-3-pentynyl)piperazine (200 mg) was treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(5-morpholino-3-pentynyl)piperazine Dihydrochloride.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(5-morpholino-3-pentynyl)piperazine | 200 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCC#CCN2CCOCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C31H35F6N3O2
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(5-morpholino-3-pentynyl)piperazine Dihydrochloride | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCC#CCN2CCOCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C31H35F6N3O2.2ClH/c1-22-6-7-24(16-23(22)2)17-28-21-39(9-5-3-4-8-38-12-14-42-15-13-38)10-11-40(28)29(41)25-18-26(30(32,33)34)20-27(19-25)31(35,36)37;;/h6-7,16,18-20,28H,5,8-15,17,21H2,1-2H3;2*1H/t28-;;/m1../s1
